US05322937
After developing the plate in a developer composed of n-hexane:benzene:methanol:ethyl acetate=30:10:25:8:20, and product spots were tested by color development with sulfuric acid to try to detect 3-acylated leucomycin A1. As a result, it was found that from among about 200 transformed strains, Streptomyces lividans 53A strain (hereafter, referred to as "strain 53A") produced leucomycin A3, i.e., 3-O-acetyl leucomycin A1. The leucomycin produced by the strain 53A was identified to be leucomycin A3 from results of analyses of TLC, HPLC, UV spectrum, NMR spectrum, antibacterial spectrum and the like.

reactant | n-hexane | CCCCCC | C6H14
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | leucomycin A1 | C[C@@H]1C/C=C/C=C/[C@@H]([C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)O)OC)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)OC(=O)CC(C)C)(C)O)N(C)C)O)CC=O)C)O | C40H67NO14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | leucomycin A3 | C[C@@H]1C/C=C/C=C/[C@@H]([C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)OC(=O)C)OC)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)OC(=O)CC(C)C)(C)O)N(C)C)O)CC=O)C)O | C42H69NO15
